data/mechanism_extracts/OrgLett/10.1021_acs.orglett.8b03191.json
{"doi": "10.1021_acs.orglett.8b03191", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical intermolecular sulfonylation/heteroarylation of alkenes (benzothiazole-substituted tertiary homoallylic alcohols) with sulfinic acids via distal heteroaryl ipso-migration, forming new C–C and C–S bonds.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sulfinate anion (from deprotonation of sulfinic acid) to a sulfonyl radical; cathode reduces protons to H2; a second anodic SET oxidizes a ketyl radical intermediate to a carbocation.", "key_intermediates": [{"name": "sulfinate anion (I)", "smiles": "[O-]S(=O)c1ccc(C)cc1", "role": "transient"}, {"name": "oxygen-centered sulfonyl radical (II)", "smiles": null, "role": "transient"}, {"name": "S-centered sulfonyl radical (III), resonance form of II", "smiles": "O=[S](=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "carbon radical from sulfonyl addition to alkene (IV)", "smiles": null, "role": "reactive"}, {"name": "spiro N-radical (V) from intramolecular ipso-cyclization onto benzothiazole", "smiles": null, "role": "reactive"}, {"name": "ring-opened ketyl (C-centered/O-radical) intermediate (VI)", "smiles": null, "role": "reactive"}, {"name": "carbocation intermediate (VII) after anodic SET oxidation of VI", "smiles": null, "role": "reactive"}], "electron_flow": "Sulfinic acid is deprotonated and the sulfinate is anodically oxidized (SET) to a sulfonyl radical, which adds across the alkene to give a C-radical; intramolecular ipso-addition onto the benzothiazole forms a spiro N-radical that undergoes C–C bond cleavage/ring-opening to a ketyl radical, which is anodically oxidized to a cation, then deprotonated to give the migrated ketone product. Protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed (3a 0%), starting material 1a almost fully recovered — supports radical pathway."}, {"name": "Sodium p-tolylsulfinate (4)", "smiles": "[Na+].[O-]S(=O)c1ccc(C)cc1", "purpose": "intermediate_trap", "observation": "Gave 3a in 65% yield, similar to sulfinic acid, supporting deprotonation/sulfinate as the active species."}, {"name": "p-toluenesulfinic acid alone (no tertiary alcohol)", "smiles": "Cc1ccc(S(=O)O)cc1", "purpose": "intermediate_trap", "observation": "Homocoupling to 4,4'-dimethyldiphenyl disulfone (5) in 70% yield, indicating sulfonyl radical generation under electrolysis."}, {"name": "No-current control", "smiles": null, "purpose": "redox_probe", "observation": "No product 3a formed, confirming the transformation is electrochemically driven."}, {"name": "Chain-length variation (1u–1x, n=0,1,3,4)", "smiles": null, "purpose": "other", "observation": "Only n=2 (1,4-mig.) and n=3 (1,5-mig.) gave product; 3-, 4-, and 7-membered cyclic TS were ineffective, supporting 5-/6-membered cyclic intramolecular migration via spirocyclic N-radical."}], "evidence_types_used": ["intermediate_trap_TEMPO", "on/off_light_or_current", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "X-ray structure of 3a (CCDC 1867118) confirms regiochemistry. Sulfonyl radicals II (O-centered) and III (S-centered) are described as resonance structures; S-centered form adds to alkene. Mechanism is intramolecular heteroaryl ipso-migration (Truce–Smiles-type) rather than intermolecular; supported by chain-length scan showing strict preference for 5-/6-membered spirocyclization."}
